US07790724B2
b) 2-Cyclohex-1-enyl-4-(1-trimethylstannanyl-1H-tetrazol-5-yl)-phenylamine
The title compound was prepared from 4-amino-3-cyclohex-1-enyl-benzonitrile (as prepared in the previous step, 245 mg, 0.123 mmol) and azidotrimethylstannane (267 mg, 1.29 mmol) according to the procedure in Example 52, step (c) (320 mg, 64%). Mass spectrum (ESI, m/z): Calcd. for C13H15N5, 242.1 (M-SnMe3+2H), found 242.2 (M+H).

reactant | 4-amino-3-cyclohex-1-enyl-benzonitrile | NC1=C(C=C(C#N)C=C1)C1=CCCCC1 | C13H14N2
reactant | azidotrimethylstannane | 1.29 mmol, 267 mg | N(=[N+]=[N-])[Sn](C)(C)C
product | 2-Cyclohex-1-enyl-4-(1-trimethylstannanyl-1H-tetrazol-5-yl)-phenylamine | C1(=CCCCC1)C1=C(C=CC(=C1)C1=NN=NN1[Sn](C)(C)C)N | InChI=1S/C13H14N5.3CH3.Sn/c14-12-7-6-10(13-15-17-18-16-13)8-11(12)9-4-2-1-3-5-9;;;;/h4,6-8H,1-3,5,14H2;3*1H3;/q-1;;;;+1
